US06831193B2
6-(acetyloxy)-1,3-dioxo-1,3-dihydro-2-benzofuran-5-carboxylic acid
4-Hydroxy-benzene-1,2,5-tricarboxylic acid (4.1 g, 18.1 mmol), prepared according to J. Am. Chem. Soc. (1949) 71, 11, was treated with acetic anhydride (50 mL) and heated at reflux for 5 hours. The mixture was allowed to cool to room temperature and then concentrated under reduced pressure. The orange-pink residue was washed with diethyl ether (3×30 mL) and dried under reduced pressure at room temperature overnight to provide the title compound (1.71 g, 38%).

reactant | 4-Hydroxy-benzene-1,2,5-tricarboxylic acid | 18.1 mmol, 4.1 g | OC=1C=C(C(=CC1C(=O)O)C(=O)O)C(=O)O | C9H6O7
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-(acetyloxy)-1,3-dioxo-1,3-dihydro-2-benzofuran-5-carboxylic acid | 1.71 g, 38% | C(C)(=O)OC=1C(=CC2=C(C(OC2=O)=O)C1)C(=O)O | C11H6O7
